US07727989B2
b) 4-(1H-Benzimidazol-2-yl)-6-chloro-2H-pyridazin-3-one
A solution of 26.4 g of 6-chloro-3-oxo-2,3-dihydropyridazine-4-carboxylic acid (2-aminophenyl)amide in 500 ml of acetic acid is stirred at 110° C. for 2.5 hours and then the solvent is distilled off. The crude product obtained in this way is employed without further purification.

reactant | 6-chloro-3-oxo-2,3-dihydropyridazine-4-carboxylic acid (2-aminophenyl)amide | 26.4 g | NC1=C(C=CC=C1)NC(=O)C=1C(NN=C(C1)Cl)=O | C11H9ClN4O2
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | 4-(1H-Benzimidazol-2-yl)-6-chloro-2H-pyridazin-3-one | N1C(=NC2=C1C=CC=C2)C=2C(NN=C(C2)Cl)=O | C11H7ClN4O
